US06818644B1
9-{4-[4-(6-methyl-pyridin-2-yl)-piperazin-1-yl]-butyl}-9H-fluorene-9-carboxylic acid-4-fluorobenzyl-amide
Prepared analogously to Example 2 b from 1-(6-methyl-pyridin-2-yl)-piperazine and 9-(4-bromo-butyl)-9H-fluorene-9-carboxylic acid-4-fluorobenzyl-amide.

reactant | 1-(6-methyl-pyridin-2-yl)-piperazine | CC1=CC=CC(=N1)N1CCNCC1 | C10H15N3
reactant | 9-(4-bromo-butyl)-9H-fluorene-9-carboxylic acid-4-fluorobenzyl-amide | FC1=CC=C(CNC(=O)C2(C3=CC=CC=C3C=3C=CC=CC23)CCCCBr)C=C1 | C25H23BrFNO
product | 9-{4-[4-(6-methyl-pyridin-2-yl)-piperazin-1-yl]-butyl}-9H-fluorene-9-carboxylic acid-4-fluorobenzyl-amide | FC1=CC=C(CNC(=O)C2(C3=CC=CC=C3C=3C=CC=CC23)CCCCN2CCN(CC2)C2=NC(=CC=C2)C)C=C1 | C35H37FN4O
